### PR TITLE
[Merged by Bors] - feat: port Data.Matrix.Basic

### PR DESCRIPTION
**Pull request by joneugster**
---

UPDATE: I restarted the port using @eric-wieser 's modifications in leanprover-community/mathlib#18696

After adding some `simp` Lemmas it worked quite fine (see review comment below).

Also, #3024 addresses some problems marked with `porting note` for now.

- [x] depends on: leanprover-community/mathlib#18696

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by joneugster** [comment]
@Parcly-Taxel I usually only put the `help-wanted` label on there once I'm done working on it for the day, so that nobody else does duplicated work. Which is now the case, so feel free to continue :)

**Comment by Parcly-Taxel** [comment]
> This might be related to [lean4#2042](https://github.com/leanprover/lean4/issues/2042), but I'm not quite sure.

Did you read the note on the [mathlib porting page](https://leanprover-community.github.io/mathlib-port-status/)? That explains why I slapped `help-wanted` on this so early.

**Comment by eric-wieser** [comment]
I discussed this privately with @j-loreaux yesterday. I think we need to do a mathlib3 refactor before porting matrices to avoid downstream pain. Here's what I said there:


I think it will end up making a mess downstream if we don't either change simp, or refactor in mathlib3 first

> For instance, right now `transpose` is really hard to unfold in lean3 unless applied, which is a good thing. But lean4 will happily unfold it to a lambda, and now you've lost the information that it's a matrix
> 
> So the refactor would be:
> * Redefine as `transpose (A) := of (λ i j, A j i)` so that if it is unfolded the type is still correct, and remove `simp`
> * Add a `transpose_apply` lemma that is simp
> 
> I think the current design is clever though, and would prefer to keep it if we expect lean to change in the next few months. I think it's widely viewed as a bug.
> 
> docs#matrix.of has a reasonable summary of how things currently are

Having said that, it sounds like you found some other things we might want to worry about at the same time!

**Comment by eric-wieser** [comment]
> * it seems that mathlib3 `ext i j` doesn't quite work.

Asked about this [on Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/ext.20tactic.20intros.20too.20few.20variables/near/342651528)

**Comment by joneugster** [comment]
> I discussed this privately with @j-loreaux yesterday. I think we need to do a mathlib3 refactor before porting matrices to avoid downstream pain. Here's what I said there:
> 
> 
> I think it will end up making a mess downstream if we don't either change simp, or refactor in mathlib3 first
> 
> > For instance, right now `transpose` is really hard to unfold in lean3 unless applied, which is a good thing. But lean4 will happily unfold it to a lambda, and now you've lost the information that it's a matrix
> > 
> > So the refactor would be:
> > * Redefine as `transpose (A) := of (λ i j, A j i)` so that if it is unfolded the type is still correct, and remove `simp`
> > * Add a `transpose_apply` lemma that is simp
> > 
> > I think the current design is clever though, and would prefer to keep it if we expect lean to change in the next few months. I think it's widely viewed as a bug.
> > 
> > [docs#matrix.of](https://leanprover-community.github.io/mathlib_docs/find/matrix.of) has a reasonable summary of how things currently are
> 
> Having said that, it sounds like you found some other things we might want to worry about at the same time!

Yea I just wanted to get an idea what kind of issues you run into. Thinking about how to fix them instead of working around them sounds very reasonable👍

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#3024
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Data/Matrix/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,2823 @@
...
+instance module [Semiring R] [AddCommMonoid α] [Module R α] : Module R (Matrix m n α) :=
+  Pi.module _ _ _
+
+-- Porting note: added this section with simp lemmas because `simp` fails
+-- to apply the corresponding lemmas in the namespace `Pi`.
+-- (e.g. `Pi.zero_apply` used on `OfNat.ofNat 0 i j`)
+section NewSimpLemmas
+
+@[simp]
+theorem zero_apply [Zero α] (i : m) (j : n) : (0 : Matrix m n α) i j = 0 := rfl
```
Comment (joneugster) [inline Mathlib/Data/Matrix/Basic.lean:279]: I added these lemmas because `simp` could not apply the same lemmas inside the `Pi` namespace. This solved all problems with `simp`. Is this the right thing to do or does anybody have a better solution?

File: Mathlib/Data/Matrix/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,2823 @@
...
+end Numeral
+
+end Diagonal
+
+section Diag
+
+/-- The diagonal of a square matrix. -/
+-- @[simp] -- Porting note: simpNF does not like this.
+def diag (A : Matrix n n α) (i : n) : α :=
+  A i i
```
Comment (joneugster) [inline Mathlib/Data/Matrix/Basic.lean:588]: If this is a `simp`-Lemma then all the following lemmas about `diag` at "not in simp normal form", so I just removed the simp on this definition for now...

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib#18696~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Data/Matrix/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean:279]: I think this is probably the right thing to do.

File: Mathlib/Data/Matrix/Basic.lean [hunk 3]
```diff
@@ -1129,23 +1184,26 @@ section Scalar
...
-theorem coe_scalar : (scalar n : α → Matrix n n α) = fun a => a • 1 :=
+theorem coe_scalar : (scalar n : α → Matrix n n α) = fun a => a • (1 : Matrix n n α) :=
   rfl
 #align matrix.coe_scalar Matrix.coe_scalar
 
 theorem scalar_apply_eq (a : α) (i : n) : scalar n a i i = a := by
-  simp only [coe_scalar, smul_eq_mul, mul_one, one_apply_eq, Pi.smul_apply]
+  simp only [coe_scalar, Matrix.smul_apply, one_apply_eq, smul_eq_mul, mul_one]
 #align matrix.scalar_apply_eq Matrix.scalar_apply_eq
+-- Porting note: replaced `Pi.smul_apply` with the new `Matrix.smul_apply`
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean:1194]: nit: I'd expect these notes to appear immediately above the lines they describe

File: Mathlib/Data/Matrix/Basic.lean [hunk 4]
```diff
@@ -2731,22 +2799,25 @@ variable [Fintype n] [NonAssocSemiring α] [NonAssocSemiring β]
...
 theorem map_vecMul [NonAssocSemiring R] [NonAssocSemiring S] (f : R →+* S) (M : Matrix n m R)
     (v : n → R) (i : m) : f (M.vecMul v i) = (M.map f).vecMul (f ∘ v) i := by
   simp only [Matrix.vecMul, Matrix.map_apply, RingHom.map_dotProduct]
+  rfl -- Porting note: (rfl) in mathlib3 this `rfl` wasn't needed
 #align ring_hom.map_vec_mul RingHom.map_vecMul
 
 theorem map_mulVec [NonAssocSemiring R] [NonAssocSemiring S] (f : R →+* S) (M : Matrix m n R)
     (v : n → R) (i : m) : f (M.mulVec v i) = (M.map f).mulVec (f ∘ v) i := by
   simp only [Matrix.mulVec, Matrix.map_apply, RingHom.map_dotProduct]
+  rfl -- Porting note: (rfl) in mathlib3 this `rfl` wasn't needed
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean:2820]: What's left here?

File: Mathlib/Data/Matrix/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean:588]: It looks like we need an additional `diag_apply` lemma that is `simp`

File: Mathlib/Data/Matrix/Basic.lean (hunk 4 above)
Comment (joneugster) [reply Mathlib/Data/Matrix/Basic.lean:2826]: I don't understand why we need that `rfl` after `simp`? (I also haven't looked into it). Is that just a known regression of lean4-`simp` vs the lean3-version, or is there something to fix here?

File: Mathlib/Data/Matrix/Basic.lean (hunk 1 above)
Comment (joneugster) [reply Mathlib/Data/Matrix/Basic.lean:279]: ok. should I remove the `section NewSimpLemmas`? or give it a better name?

**Comment by eric-wieser** [comment]
I think you'll still need your `ext` workaround from the previous iteration

**Comment by joneugster** [comment]
> I think you'll still need your `ext` workaround from the previous iteration

Oh I see, it compiled locally because apparently I had the changes in `ext` from [std4#111](https://github.com/leanprover/std4/pull/111) applied inside my `lake-packages/std`🤦

File: Mathlib/Data/Matrix/Basic.lean (hunk 4 above)
Comment (joneugster) [reply Mathlib/Data/Matrix/Basic.lean:2836]: Another option would be to have a `simp`-lemma:
```
@[simp]
theorem Function.comp_fun (f : α → β) (g : γ → α) : f ∘ (fun i => g i) = fun i => f (g i) := rfl
```

It might be because `Function.comp` had the `reducible` attribute in lean3-core, but does not in lean4-core.

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean:2836]: Adding `Function.comp` to the simp call is the usual approach I think

Comment (joneugster) [reply Mathlib/Data/Matrix/Basic.lean]: I see, Ill do that!

**Review by Ruben-VandeVelde — APPROVED** [review]
lgtm

File: Mathlib/Data/Matrix/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean:277]: I think an un-named section is fine; it's nice to have something to scope the porting note

File: Mathlib/Data/Matrix/Basic.lean [hunk 5]
```diff
@@ -114,15 +114,15 @@ theorem of_symm_apply (f : Matrix m n α) (i j) : of.symm f i j = f i j :=
...
-* `alg_equiv.map_matrix`
+* `AddMonoidHom.map_matrix`
+* `LinearMap.map_matrix`
+* `RingHom.map_matrix`
+* `AlgHom.map_matrix`
+* `Equiv.map_matrix`
+* `AddEquiv.map_matrix`
+* `LinearEquiv.map_matrix`
+* `RingEquiv.map_matrix`
+* `AlgEquiv.map_matrix`
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean:125]: Shouldnt these all be `mapMatrix` as they're defs?

File: Mathlib/Data/Matrix/Basic.lean [hunk 6]
```diff
@@ -363,10 +395,10 @@ variable [DecidableEq n]
...
 
 Note that bundled versions exist as:
-* `matrix.diagonal_add_monoid_hom`
-* `matrix.diagonal_linear_map`
-* `matrix.diagonal_ring_hom`
-* `matrix.diagonal_alg_hom`
+* `Matrix.diagonal_addMonoidHom`
+* `Matrix.diagonal_linearMap`
+* `Matrix.diagonal_ringHom`
+* `Matrix.diagonal_algHom`
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean:401]: No underscores here

File: Mathlib/Data/Matrix/Basic.lean [hunk 7]
```diff
@@ -410,7 +442,8 @@ theorem diagonal_zero [Zero α] : (diagonal fun _ => 0 : Matrix n n α) = 0 := b
 
 @[simp]
 theorem diagonal_transpose [Zero α] (v : n → α) : (diagonal v)ᵀ = diagonal v := by
-  ext (i j)
+  ext
+  rename_i i j -- Porting note: `ext` does not like `Matrix.ext` introducing two vars at once.
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean:446]: I thought you had a solution to this by adding a weird `@[ext]` lemma for matrices that amounted to "two matrices are equal if each row is equal", which meant that lean would apply `funext` after `matrix.ext` and do the right thing?

File: Mathlib/Data/Matrix/Basic.lean [hunk 8]
```diff
@@ -703,45 +756,42 @@ section NonUnitalNonAssocSemiringDecidable
...
 
-/- ./././Mathport/Syntax/Translate/Basic.lean:635:2: warning: expanding binder collection (j «expr ≠ » i) -/
 @[simp]
 theorem single_dotProduct (x : α) (i : m) : Pi.single i x ⬝ᵥ v = x * v i := by
-  have : ∀ (j) (_ : j ≠ i), Pi.single i x j * v j = 0 := fun j hij => by
+  have : ∀ (j) (_ : j ≠ i), Pi.single (f := fun _ => α) i x j * v j = 0 := fun j hij => by
     simp [Pi.single_eq_of_ne hij]
   convert Finset.sum_eq_single i (fun j _ => this j) _ using 1 <;> simp
 #align matrix.single_dot_product Matrix.single_dotProduct
+-- Porting note: (implicit arg) added `(f := fun _ => α)`
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean:786]: Can you move these porting notes up to just before the line they describe?

**Review by eric-wieser — COMMENTED** [review]
I think my only remaining comments are:
* I preferred the `ext` hack you had before that introduced a weird `ext` lemma rather than making all the proofs use `rename_i`
* The porting comments would be clearer if they appeared at the relevant point mid-proof rather than at the end.

File: Mathlib/Data/Matrix/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,2822 @@
...
+This is available in bundled forms as:
+* `AddMonoidHom.map_matrix`
+* `LinearMap.map_matrix`
+* `RingHom.map_matrix`
+* `AlgHom.map_matrix`
+* `Equiv.map_matrix`
+* `AddEquiv.map_matrix`
+* `LinearEquiv.map_matrix`
+* `RingEquiv.map_matrix`
+* `AlgEquiv.map_matrix`
```
Comment (Parcly-Taxel) [inline Mathlib/Data/Matrix/Basic.lean:125]:
```suggestion
* `AddMonoidHom.mapMatrix`
* `LinearMap.mapMatrix`
* `RingHom.mapMatrix`
* `AlgHom.mapMatrix`
* `Equiv.mapMatrix`
* `AddEquiv.mapMatrix`
* `LinearEquiv.mapMatrix`
* `RingEquiv.mapMatrix`
* `AlgEquiv.mapMatrix`
```

File: Mathlib/Data/Matrix/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,2822 @@
...
+variable [DecidableEq n]
+
+/-- `diagonal d` is the square matrix such that `(diagonal d) i i = d i` and `(diagonal d) i j = 0`
+if `i ≠ j`.
+
+Note that bundled versions exist as:
+* `Matrix.diagonal_addMonoidHom`
+* `Matrix.diagonal_linearMap`
+* `Matrix.diagonal_ringHom`
+* `Matrix.diagonal_algHom`
```
Comment (Parcly-Taxel) [inline Mathlib/Data/Matrix/Basic.lean:401]:
```suggestion
* `Matrix.diagonalAddMonoidHom`
* `Matrix.diagonalLinearMap`
* `Matrix.diagonalRingHom`
* `Matrix.diagonalAlgHom`
```

File: Mathlib/Data/Matrix/Basic.lean (hunk 7 above)
Comment (joneugster) [reply Mathlib/Data/Matrix/Basic.lean:446]: Oh I miss understood you. I'll change it to that option!

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean:446]: Thanks! I preferred it because it looks easier to undo later if we make a fix to core / std.

**Comment by joneugster** [comment]
> I think my only remaining comments are:
> 
>     * I preferred the `ext` hack you had before that introduced a weird `ext` lemma rather than making all the proofs use `rename_i`
> 
>     * The porting comments would be clearer if they appeared at the relevant point mid-proof rather than at the end.

done

File: Mathlib/Data/Matrix/Basic.lean [hunk 11]
```diff
@@ -540,13 +554,13 @@ theorem map_one [Zero β] [One β] (f : α → β) (h₀ : f 0 = 0) (h₁ : f 1
   split_ifs <;> simp [h₀, h₁]
 #align matrix.map_one Matrix.map_one
 
+-- Porting note: added implicit argument `(f := fun_ => α)`, why is that needed?
 theorem one_eq_pi_single {i j} : (1 : Matrix n n α) i j = Pi.single (f := fun _ => α) i 1 j := by
   simp only [one_apply, Pi.single_apply, eq_comm]
+  -- Porting note: removed `<;> congr` at the end of the proof.
+  -- mathlib3 comment was: "deal with decidable_eq"
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean:561]: I would guess that this was simply dead code in mathlib3; I think we can drop this porting comment

File: Mathlib/Data/Matrix/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,2829 @@
...
+#align matrix.reindex Matrix.reindex
+
+@[simp]
+theorem reindex_apply (eₘ : m ≃ l) (eₙ : n ≃ o) (M : Matrix m n α) :
+    reindex eₘ eₙ M = M.submatrix eₘ.symm eₙ.symm :=
+  rfl
+#align matrix.reindex_apply Matrix.reindex_apply
+
+-- @[simp] -- Porting note: simp can prove this
+theorem reindex_refl_refl (A : Matrix m n α) : reindex (Equiv.refl _) (Equiv.refl _) A = A :=
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean:2488]: Whoops, this one was probably meant to say something else. That's out of scope here though.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks for restarting the port on this
